US09388189B2
(S)-2-(1-((6-Amino-5-(5-(2,2,2-trifluoroethoxyl)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
A mixture of (S)-2-(1-((6-amino-5-(5-hydroxypyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (49 mg, 0.11 mmol), 1,1,1-trifluoro-2-iodoethane (13 μl, 0.13 mmol) and potassium carbonate (30 mg, 0.22 mmol) in N,N-dimethylformamide (3 ml) was stirred at 120° C. under microwave irradiation for 2 h. Further 1,1,1-trifluoro-2-iodoethane (13 μl, 0.13 mmol) and potassium carbonate (15 mg, 0.11 mmol) were added and the reaction mixture was stirred at 120° C. under microwave irradiation for 2 h. The residue was purified by reverse phase using SP1® Purification System to give 32 mg (55% yield) as a solid. Purity 100%.

reactant | (S)-2-(1-((6-amino-5-(5-hydroxypyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.11 mmol, 49 mg | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C=2C=NC=C(C2)O | C24H22N8O2
reactant | 1,1,1-trifluoro-2-iodoethane | 0.13 mmol, 13 μl | FC(CI)(F)F | C2H2F3I
reactant | potassium carbonate | 0.22 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1-trifluoro-2-iodoethane | 0.13 mmol, 13 μl | FC(CI)(F)F | C2H2F3I
reactant | potassium carbonate | 0.11 mmol, 15 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (S)-2-(1-((6-Amino-5-(5-(2,2,2-trifluoroethoxyl)pyridin-3-yl)pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 55% yield | NC1=C(C(=NC=N1)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)C=2C=NC=C(C2)OCC(F)(F)F | C26H23F3N8O2
